US04945091
To 150 ml of N,N-dimethylformamide were added 10.2 g of 4-chloro-5-hydroxy-2-(3'-hydroxypropyl)-3(2H)-pyridazinone (0.05 mol), 8.4 g of 4-chlorobenzyl chloride (0.052 mol) and 10.4 g of anhydrous potassium carbonate (0.075 mol) and heated for about 3 hours at 100° C. to 120° C. After reaction, the mixture solution was poured into water and extracted with ethyl acetate. The resulting solution was washed with water and then with aqueous solution of 5% sodium hydroxide and further with saturated saline. The solution was dried over anhydrous sodium sulfate and the solvent was distilled off under reduced pressure. The solid product thus obtained was washed with n-hexane and dried to obtain 12.3 g of 4-chloro-5-(4'-chlorobenzyloxy)-2-(3'-hydroxypropyl)-3(2H)-pyridazinone.

reactant | N,N-dimethylformamide | 150 ml | CN(C=O)C | C3H7NO
reactant | 4-chloro-5-hydroxy-2-(3'-hydroxypropyl)-3(2H)-pyridazinone | 0.05 mol, 10.2 g | ClC=1C(N(N=CC1O)CCCO)=O | C7H9ClN2O3
reactant | 4-chlorobenzyl chloride | 0.052 mol, 8.4 g | ClC1=CC=C(CCl)C=C1 | C7H6Cl2
reactant | potassium carbonate | 0.075 mol, 10.4 g | C([O-])([O-])=O.[K+].[K+]
solvent | water | O | H2O
product | 4-chloro-5-(4'-chlorobenzyloxy)-2-(3'-hydroxypropyl)-3(2H)-pyridazinone | 12.3 g | ClC=1C(N(N=CC1OCC1=CC=C(C=C1)Cl)CCCO)=O | C14H14Cl2N2O3
